US04956333
Synthesis of 4-methylphenyl mesitylenesulfonate
10.8 g of p-cresol is added to a mixture containing 9.17 g of 48% NaOH, 50 ml of water and 50 ml of toluene. To the resulting mixture is added 22.9 g of mesitylenesulfonyl chloride, and reaction is carried out at 60° to 65° C. for 1 hour. After separating the aqueous layer, toluene is removed from the toluene layer by distillation. The resulting desired compound is purified with methanol.

reactant | p-cresol | 10.8 g | C1=CC(=CC=C1O)C | C7H8O
reactant | NaOH | 9.17 g | [OH-].[Na+]
reactant | water | 50 ml | O | H2O
reactant | mesitylenesulfonyl chloride | 22.9 g | C1(=C(C(=CC(=C1)C)C)S(=O)(=O)Cl)C | C9H11ClO2S
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 4-methylphenyl mesitylenesulfonate | C1(=C(C(=CC(=C1)C)C)S(=O)(=O)OC1=CC=C(C=C1)C)C | C16H18O3S
